US06110962
2-[2,6-Dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenoxy]-3-(4-fluoro-phenyl )-propionic acid
A suspension of 2-[2,6-dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11 -yl)-phenoxy]-3-(4-fluoro-phenyl)-propionic acid tert-butyl ester (0.232 g 0.295 mmol) in trifluoroacetic acid (5 mL) was heated at 55° C. for 11 hours. After cooling to room temperature the reaction mixture was poured into water (60 mL) and extracted with ether. The combined ether extracts were washed with water and brine, concentrated, and dried in vacuo at 60° C. to provide the title compound as an off white solid (0.187 g, 98%): NMR (CDCl3); δ8.36 (d, J=7 Hz, 1 H), 7.82 (d, J=7 Hz, 1 H), 7.68 (ddd, J=8, 6, 2 Hz, 1 H), 7.58 (dd, J=8, 2 Hz, 2 H), 7.55-7.48 (m, 2 H), 7.45-7.35 (m, 3 H), 7.15 (dt, J=7, 1, 1H), 7.03 (tt J=10, 3, 1, 2H), 6.71 (d, J=8 Hz, 1 H), 5.44 (t, J=6 Hz, 1 H), 3.56 (d, J=7 Hz, 2 H); MS (+FAB): [M+], 3 bromine isotope pattern, 726 (15%), 728 ( 30%) 730 (35%) 732 (15%); Anal. Calc. for C31H18Br3FO3S: C, 51.06, H, 2.49, N, 0.00. Found: C, 50.80, H, 2.46, N, 0.10.

reactant | 2-[2,6-dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11 -yl)-phenoxy]-3-(4-fluoro-phenyl)-propionic acid tert-butyl ester | 0.295 mmol, 0.232 g | C(C)(C)(C)OC(C(CC1=CC=C(C=C1)F)OC1=C(C=C(C=C1Br)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)Br)Br)=O | C35H26Br3FO3S
reactant | water | 60 mL | O | H2O
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-[2,6-Dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenoxy]-3-(4-fluoro-phenyl )-propionic acid | BrC1=C(OC(C(=O)O)CC2=CC=C(C=C2)F)C(=CC(=C1)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)Br)Br | C31H18Br3FO3S
